Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Cough and shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman w/ PMHx of ___ disease, 
bilateral blindness, HTN, bronchitis who was admitted from ___ 
ED for unresolved cough and shortness of breath after 3 days of 
outpatient antibiotic treatment. 

Of note, patient is currently living with her son, her primary 
care giver. At baseline, patient was not very active physically 
due to her poor vision and only ambulates minimally with walker. 
In the past few days, patient has developed increased cough, 
productive of scant white sputum and SOB.  She was seen at OSH, 
where she was diagnosed with "pneumonia" and was started with 
doxycycline PO treatment.  She took doxycycline for 3 days but 
her symptoms did not resolve.  She has felt weaker since the 
start of her current episode. 

In the ED, patient was noted to be afebrile and stable.  She had 
an CXR which was unremarkable. Labs did not show any 
leukocytosis. Patient was given one dose of IV ceftriaxone and 
clindamycin before she was admitted to medicine service for 
observation. 

Review of Systems: ROS negative except as above. 
 
Past Medical History:
___ Disease
HTN
Bronchitis 
Bilateral blindness
 
Social History:
___
Family History:
not significant
 
Physical Exam:
Admission:
GEN: NAD, AAOx3. 
HEENT: NC, AT, bilateral blindness at baseline, MMM. 
Neck: No JVD, no carotid bruit, no thyromegaly. 
CV: RRR, nl S1/S2, no m/r/g. 
Lungs: coarse breath sounds bilaterally, scattered wheezes. 
Abdomen: NT, ND, BS active. 
Ext: No ___, pulses 2+. 

Discharge:
VS: AVSS
Gen: NAD, resting comfortably in bed
HEENT: bilateral blindness, MMM
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Abd: Soft, NT, ND +BS
Ext: no c/c/e
Neuro: CN II-XII intact, ___ strength throughout
Psych: normal affect
Skin: warm, dry.  Upper chest and neck rash resolved.
 
Pertinent Results:
___ 07:40PM   WBC-9.8 RBC-4.12 HGB-12.3 HCT-37.2 MCV-90 
MCH-29.9 MCHC-33.1 RDW-13.2 RDWSD-43.2
___ 07:40PM   GLUCOSE-124* UREA N-15 CREAT-0.7 SODIUM-136 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-24 ANION GAP-17
___ 06:18PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

CXR ___: No acute cardiopulmonary process.

 
Brief Hospital Course:
Ms. ___ is an ___ yo woman w/ PMHx of ___ disease 
who was admitted for unresolved SOB and cough despite antibiotic 
treatment for presumed pneumonia. 

# Bronchitis / ?Pneumonia.  Recently diagnosed with pneumonia 
and completed antibiotic course of doxycycline. Per son had some 
intermittent cough and shortness of breath but CXR here showing 
no evidence of pneumonia.  Currently she denies cough or SOB, 
has normal oxygen saturation and clear lungs on examination.  
Low suspicion for current bacterial process. She had occasional 
cough and wheezing after eating.  She was evaluated by speech 
and swallow who thought she did overall well and did not think 
VSS indicated at this time.
- Atrovent nebs q6h standing for 2 weeks
- Fluticasone inhaler for reactive airways
- Albuterol nebs PRN

# Rash: developed pruritic rash after receiving Levaquin, no 
prior history of allergies per patient or son. ___ improved 
after Benadryl and currently resolved.
- Added Levaquin as an allergy

# ___ disease
- Continue home meds. 

# Difficulty ambulating: Having worsening difficulty ambulating. 
 ___ recommending rehab, patient and family only interested in 
___ rehab where she has been before. ___ declined 
patient, so family decided to take her home with services.

Code: Full code here

Billing: >30 minutes spent coordinating discharge to home

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Carbidopa-Levodopa (___) 1.5 TAB PO TID 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Lodosyn (carbidopa) 25 mg oral DAILY 
6. Polyethylene Glycol 17 g PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Rasagiline 0.5 mg PO DAILY 
9. melatonin 3 mg oral QHS 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Carbidopa-Levodopa (___) 1.5 TAB PO TID 
3. Lodosyn (carbidopa) 25 mg oral DAILY 
4. melatonin 3 mg oral QHS 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. Polyethylene Glycol 17 g PO DAILY 
9. Rasagiline 0.5 mg PO DAILY 
10. Ipratropium Bromide Neb 1 NEB IH Q6H 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 1 neb INH every 6 
hours for 2 weeks and then as needed Disp #*90 Vial Refills:*0
11. Fluticasone Propionate 110mcg 2 PUFF IH BID 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 puff INH twice 
daily Disp #*3 Inhaler Refills:*0
12. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing, 
dyspnea, cough 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inh every 4 
hours as needed Disp #*90 Vial Refills:*0
13. Spacer
Diagnosis: Bronchitis, reactive airways disease
Please use with fluticasone inhaler

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bronchitis vs airway reactivity after infection
___ disease
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for occasional wheezing and cough. There was 
concern for pneumonia but your chest X-ray did not show 
pneumonia and your symptoms quickly improved with nebulizers. 
Antibiotics were stopped and you tolerated this just fine. 
Overall, your presentation is most consistent with a post 
infectious bronchitis or asthma like syndrome.

You were evaluated by speech and language pathology who felt you 
would benefit from a ground diet with thin liquids to minimize 
your risks of accidentally inhaling some of your food when you 
eat (which can predispose to pneumonia and coughing fits).

You were deconditioned and had difficulty moving around and 
physical therapy recommended going to a rehab facility. You did 
not qualify for acute level rehab and so you and your family 
elected to go home with maximal services in order to work on 
getting stronger at home.
 
Followup Instructions:
___